US09216980B2
Preparation of 1,2-Dimethyl-5-(tributylstannyl)-1H-imidazole
The title compound was prepared following a similar procedure to previous example using 5-bromo-1,2-dimethyl-1H-imidazole and tributylchlorostannane.

reactant | 5-bromo-1,2-dimethyl-1H-imidazole | BrC1=CN=C(N1C)C | C5H7BrN2
reactant | tributylchlorostannane | C(CCC)[Sn](Cl)(CCCC)CCCC
product | 1,2-Dimethyl-5-(tributylstannyl)-1H-imidazole | CN1C(=NC=C1[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C5H7N2.3C4H9.Sn/c1-5-6-3-4-7(5)2;3*1-3-4-2;/h3H,1-2H3;3*1,3-4H2,2H3;
